US04612376
To a suspension of 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione (1.5 g) in dioxane (15 ml) was added phosphorus pentasulfide (1.27 g) and the mixture was refluxed for 2 hours. After being cooled, ethanol (15 ml) was added thereto, and the mixture was refluxed for 2 hours again. After being cooled, the resulting precipitates were collected by filtration and washed successively with ethanol and diisopropyl ether to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-thioxo-2(1H)-pyrimidinone (0.85 g).

reactant | 6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)-pyrimidinedione | 1.5 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=O | C13H14N2O4
reactant | phosphorus pentasulfide | 1.27 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-thioxo-2(1H)-pyrimidinone | 0.85 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=S | C13H14N2O3S
